US07759373B2
To a solution of the crude product of methyl 5-(5-benzo[b]furyl)oxazol-4-carboxylate (1.14 g) in methanol (20 ml) and tetrahydrofuran (5 ml) was added conc. hydrochloric acid (8 ml), and the mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure and the resulting residue was triturated with methanol-diethyl ether-acetone to obtain 5-(aminoacetyl)benzo[b]furan hydrochloride (600 mg).

reactant | methyl 5-(5-benzo[b]furyl)oxazol-4-carboxylate | 1.14 g | O1C2=C(C=C1)C=C(C=C2)C2=C(N=CO2)C(=O)OC | C13H9NO4
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(aminoacetyl)benzo[b]furan hydrochloride | 600 mg | Cl.NCC(=O)C1=CC2=C(OC=C2)C=C1 | InChI=1S/C10H9NO2.ClH/c11-6-9(12)7-1-2-10-8(5-7)3-4-13-10;/h1-5H,6,11H2;1H
